US03948939
9-Benzoyl-8-bromo-1,2,3,4-tetrahydrocarbazole-3-carboxylic acid
A solution of acetaldehyde 1-benzoyl-1-(2-bromophenyl)hydrazone, prepared from 11 g. of acetaldehyde 2-bromophenyl hydrazone (see below), and 9.16 g. of cyclohexanone-4-carboxylic acid in 25 ml. glacial acetic acid was heated on a hot plate until evolution of acetaldehyde was no longer detected (about two hours), 25 ml. glacial acetic acid saturated with hydrogen chloride was added and heating was continued for 30 minutes. The mixture was cooled and cautiously diluted with water, and the resulting solid was collected by filtration and washed with water to give 2.24 g. of the title compound; m.p. 196°-198°C. (chloroform-heptane).

reactant | acetaldehyde 1-benzoyl-1-(2-bromophenyl)hydrazone | C(C1=CC=CC=C1)(=O)N(N=CC)C1=C(C=CC=C1)Br | C15H13BrN2O
reactant | acetaldehyde 2-bromophenyl hydrazone | BrC1=C(C=CC=C1)NN=CC | C8H9BrN2
reactant | cyclohexanone-4-carboxylic acid | C1CC(=O)CCC1C(=O)O | C7H10O3
reactant | acetaldehyde | C(C)=O | C2H4O
reactant | hydrogen chloride | Cl | ClH
solvent | water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 9-Benzoyl-8-bromo-1,2,3,4-tetrahydrocarbazole-3-carboxylic acid | C(C1=CC=CC=C1)(=O)N1C2=C(C=CC=C2C=2CC(CCC12)C(=O)O)Br | C20H16BrNO3
